US09340538B2
Step F: (3S)-4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-3-methylmorpholine-3-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.77 g, 1.53 mmol) was reacted with (S)-3-methylmorpholine-3-carboxylic acid (0.22 g, 1.53 mmol) according to the procedure as described in Example 46, Step F to give the title compound as a yellow solid (0.52 g, 60%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.53 mmol, 0.77 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | (S)-3-methylmorpholine-3-carboxylic acid | 1.53 mmol, 0.22 g | C[C@@]1(NCCOC1)C(=O)O | C6H11NO3
product | (3S)-4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-3-methylmorpholine-3-carboxylic acid | 0.52 g, 60% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1[C@@](COCC1)(C(=O)O)C)C(=O)OCC | C23H24BrFN4O5S
